US08609656B2
Preparation of 1-(4-nitrophenyl)-1H-indole-5-carboxylic acid methylamide
The title compound can be synthesized from 1H-indole-5-carboxylic acid methylamide and 4-fluoronitrobenzene in the same manner as in Step A of Example 1.

reactant | 1H-indole-5-carboxylic acid methylamide | CNC(=O)C=1C=C2C=CNC2=CC1 | C10H10N2O
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-(4-nitrophenyl)-1H-indole-5-carboxylic acid methylamide | CNC(=O)C=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H13N3O3
